US06696597B2
FIG. 16 shows a synthesis of 5-decenyl acetate which involves the cross-metathesis of vinyl borate pinacol ester (Matheson, D. S J Am Chem Soc (1960) 82, 4228-4233) with 5-hexenol THP ether (or 1,10-diTHP ether of 5-decene) with Catalyst 823 to yield a pinacol ester of 1-borohexen-6-ol THP ether. This product was coupled with butyl lithium and zinc chloride under Suzuki conditions as described by Miycuira (Org Syn VIII p 532) to yield E-5-decenol THP ether in a 91:9 E:Z isomeric ratio. This material was purified by column chromatography and then acetated to yield 5-decenyl acetate in 91:9 E:Z isomeric ratio.

reactant | butyl lithium | C(CCC)[Li]
reactant | ether | CCOCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | E-5-decenol | C(CCC\C=C\CCCC)O | C10H20O
